US04590271
A. 3-Anilino-2-(3-benzo[b]thienylmethyl)acrylonitrile
The title compound was prepared from thianaphthene-3-carboxaldehyde (W. J. King and F. F. Nord, J. Org. Chem. 1948, 13, 635) and 3-anilinopropionitrile by the procedure of Example 4A (29%); mp 168°-170° dec. Anal. Calcd for C18H14N2S: 0.1 H2O: C, 73.99; H, 4.90; N, 9.59; S, 10.97. Found: C, 74.03; H, 5.21; N, 9.59; S, 11.01.

reactant | thianaphthene-3-carboxaldehyde | C1=CC=C2C(=C1)C(=CS2)C=O | C9H6OS
reactant | 3-anilinopropionitrile | N(C1=CC=CC=C1)CCC#N | C9H10N2
solvent | H2O | O | H2O
product | 3-Anilino-2-(3-benzo[b]thienylmethyl)acrylonitrile | N(C1=CC=CC=C1)C=C(C#N)CC=1C2=C(SC1)C=CC=C2 | C18H14N2S
